.title tr_AND2
.include "../../../autohv_bicmos180_case.lib"
.param case=0
.param VDD=3.3
Vdd vdd 0 {VDD}
Vin in 0 PULSE(0 {VDD} 2n 0.02n 0.02n 9n 20n)
X1 nd in vdd vdd PMOS33 W={(1.3719)*1e-6} L=0.35u
X2 nd vdd vdd vdd PMOS33 W={(1.3719)*1e-6} L=0.35u
X3 nd in n1 0 NMOS33 W={(1.4316)*1e-6} L=0.35u
X4 n1 vdd 0 0 NMOS33 W={(1.4316)*1e-6} L=0.35u
X5 out nd vdd vdd PMOS33 W={(2.1378)*1e-6} L=0.35u
X6 out nd 0 0 NMOS33 W={(0.6537)*1e-6} L=0.35u
CL out 0 5.0f
.control
foreach cs 0 1 2 3 4
 foreach vd 2.970 3.300 3.630
  foreach tp -55 27 150
   alterparam case=$cs
   alterparam VDD=$vd
   reset
   option temp=$tp
   let v10=0.1*$vd
   let v90=0.9*$vd
   tran 0.004n 20n
   meas tran trise trig v(out) val=$&v10 rise=1 td=1.5n targ v(out) val=$&v90 rise=1 td=1.5n
   meas tran tfall trig v(out) val=$&v90 fall=1 td=10.5n targ v(out) val=$&v10 fall=1 td=10.5n
   echo "RES cs=$cs vd=$vd tp=$tp trise=$&trise tfall=$&tfall"
  end
 end
end
.endc
.end
